US04464369
Trifluoroacetic acid (6.75 ml) was added to a solution of benzhydryl 7-[2-tert-butoxycarbonylmethoxyimino-2-(1,2,5-thiadiazol-3-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (2.9 g) in methylene chloride (5.8 ml) and anisole (1.9 ml) under ice-cooling, and the mixture was stirred for 4 hours at ambient temperature. The resultant solution was added dropwise to diisopropyl ether (100 ml) and the precipitates were collected by filtration. The precipitates were added to a mixture of water and ethyl acetate and adjusted to pH 7.0 with 10% aqueous sodium hydroxide. The separated aqueous layer was adjusted to pH 2 with 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed with an aqueous sodium chloride and then dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether and collected by filtration to give 7-[2-carboxymethoxyimino-2-(1,2,5-thiadiazol-3-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (0.96 g).

reactant | Trifluoroacetic acid | 6.75 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzhydryl 7-[2-tert-butoxycarbonylmethoxyimino-2-(1,2,5-thiadiazol-3-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 2.9 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=NSN=C1 | C32H31N5O7S2
reactant | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 5.8 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 1.9 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-carboxymethoxyimino-2-(1,2,5-thiadiazol-3-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 0.96 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)C1=NSN=C1 | C15H13N5O7S2
